US06110924
b) Preparation of Ethyl 3-(tertbutyldimethylsilyloxy)phenylacetate
To a solution of ethyl 3-hydroxyphenylacetate (6 g) and tertbutyldimethylsilyl chloride (6 g) in 80 ml of anhydrous dimethylformamide are added 5.66 g of imidazole and the mixture is stirred at room temperature for 1 hour 30 minutes. The reaction mixture is then poured into water and extracted twice with ethyl acetate. The pooled organic extracts are dried over sodium sulfate and concentrated to dryness to give 10 g of the product as a yellow oil.

reactant | ethyl 3-hydroxyphenylacetate | 6 g | OC=1C=C(C=CC1)CC(=O)OCC | C10H12O3
reactant | tertbutyldimethylsilyl chloride | 6 g | C(C)(C)(C)[Si](C)(C)Cl | C6H15ClSi
reactant | imidazole | 5.66 g | N1C=NC=C1 | C3H4N2
reactant | water | O | H2O
solvent | dimethylformamide | 80 ml | CN(C=O)C | C3H7NO
product | Ethyl 3-(tertbutyldimethylsilyloxy)phenylacetate | 10 g | C(C)(C)(C)[Si](OC=1C=C(C=CC1)CC(=O)OCC)(C)C | C16H26O3Si
